US04335054
0.0792 g (5 millimols) of palladium(II) cyanide, 10.03 g (50 millimols) of 3,5-dimethoxybenzoyl chloride, 6.26 g (62.5 millimols) of ethyl acrylate and 6.46 g (50 millimols) of N-ethyldiisopropylamine, in 100 ml of benzonitrile, are stirred for 70 minutes at 140° C. The crude product is distilled in vacuo. Working up affords 5.83 g (49% of theory) of ethyl 3,5-dimethoxycinnamate as a colourless liquid.

reactant | 3,5-dimethoxybenzoyl chloride | 50 millimols, 10.03 g | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
reactant | ethyl acrylate | 62.5 millimols, 6.26 g | C(C=C)(=O)OCC | C5H8O2
reactant | N-ethyldiisopropylamine | 50 millimols, 6.46 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | benzonitrile | 100 ml | C(C1=CC=CC=C1)#N | C7H5N
catalyst | palladium(II) cyanide | 5 millimols, 0.0792 g | [Pd](C#N)C#N
product | ethyl 3,5-dimethoxycinnamate | 5.83 g, 49% | COC=1C=C(C=CC(=O)OCC)C=C(C1)OC | C13H16O4
